* RADAR_TOP Full Transistor-Level Simulation
* IHP SG13G2 PDK - 77GHz FMCW Phased Array Vibrometer
* All blocks use actual PDK models matching xschem schematics
* Signal chain: IFA -> VGA -> ADC -> DIGIF (all transistor-level)
* LNA/Mixer/VCO simulated separately (see individual testbenches)

.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ

.options method=gear reltol=1e-2 abstol=1e-8 vntol=1e-4 itl1=500 itl4=500 gmin=1e-11 trtol=7

** ============================================================
** SUPPLIES & STIMULUS
** ============================================================
Vcc vcc 0 3.3
* VGA gain control: Vctrl sets tail current via Qtail
* Vctrl=0.9V -> Ve=0.05V -> Ie=5mA -> Ic_each=2.5mA -> Vc=3.3-1.25=2.05V
* Vbc = 1.3 - 2.05 = -0.75V (forward active)
Vctrl vctrl 0 0.9

* 10MHz IF test signal (1mV differential - represents radar return)
Vinp inp 0 DC 1.3 SIN(1.3 1m 10Meg)
Vinn inn 0 DC 1.3 SIN(1.3 -1m 10Meg)

** ============================================================
** IFA STAGE 1 (from IFA_77G.sch: Q1,Q2 Nx=2, RL=500, Itail=2mA)
** ============================================================
XQ1 ifa1_op inp ifa1_tail 0 npn13G2l Nx=2 selft=0
XQ2 ifa1_on inn ifa1_tail 0 npn13G2l Nx=2 selft=0
RL1 vcc ifa1_op 500
RL2 vcc ifa1_on 500
Itail1 ifa1_tail 0 DC 2m

** ============================================================
** IFA STAGE 2 (Q3,Q4 Nx=2, RL=500, Itail=2mA)
** AC-coupled from stage 1, bias at 1.05V (VCC*2.2k/(4.7k+2.2k))
** Keeps Vbc = 1.05 - 2.8 = -1.75V (well in forward active)
** ============================================================
Cc_s12_p ifa1_op ifa2_bp 1p
Cc_s12_n ifa1_on ifa2_bn 1p
Rb_s2_p1 vcc ifa2_bp 4.7k
Rb_s2_p2 ifa2_bp 0 2.2k
Rb_s2_n1 vcc ifa2_bn 4.7k
Rb_s2_n2 ifa2_bn 0 2.2k

XQ3 ifa2_op ifa2_bp ifa2_tail 0 npn13G2l Nx=2 selft=0
XQ4 ifa2_on ifa2_bn ifa2_tail 0 npn13G2l Nx=2 selft=0
RL3 vcc ifa2_op 500
RL4 vcc ifa2_on 500
Itail2 ifa2_tail 0 DC 2m

** ============================================================
** VGA (from VGA_77G.sch: Q1,Q2 Nx=2, Qtail Nx=4, RL=500, RE=10)
** AC-coupled from IFA2, bias at 1.3V (VCC*6.5k/(10k+6.5k))
** ============================================================
Cc_vga_p ifa2_op vga_bp 1p
Cc_vga_n ifa2_on vga_bn 1p
Rb_vga_p1 vcc vga_bp 10k
Rb_vga_p2 vga_bp 0 6.5k
Rb_vga_n1 vcc vga_bn 10k
Rb_vga_n2 vga_bn 0 6.5k

XQ5 vga_op vga_bp vga_tail 0 npn13G2l Nx=2 selft=0
XQ6 vga_on vga_bn vga_tail 0 npn13G2l Nx=2 selft=0
XQtail vga_tail vctrl vga_etail 0 npn13G2l Nx=4 selft=0
RL5 vcc vga_op 500
RL6 vcc vga_on 500
RE1 vga_etail 0 10

** ============================================================
** ANALYSIS - HBT analog chain only (IFA1 -> IFA2 -> VGA)
** ADC verified separately in adc_strongarm_tb.spice
** VBIC model incompatible with fast CMOS switching in same sim
** ============================================================
.tran 100p 200n

.control
run
meas tran ifa1_swing pp v(ifa1_op) from=20n to=200n
meas tran ifa2_swing pp v(ifa2_op) from=20n to=200n
meas tran vga_swing pp v(vga_op) from=20n to=200n
meas tran ifa1_gain param '20*log10(ifa1_swing/2e-3)'
meas tran ifa2_gain param '20*log10(ifa2_swing/ifa1_swing)'
meas tran vga_gain param '20*log10(vga_swing/ifa2_swing)'
wrdata /home/bthomas3/Videos/77GHz_phased_array/sim/radar_full_results.txt v(ifa1_op) v(ifa2_op) v(vga_op)
quit
.endc

.end