* RADAR_TOP - Full System Simulation
* IHP SG13G2 PDK Models - 77GHz FMCW Phased Array
* Signal chain: LNA -> Mixer -> IFA -> VGA -> ADC -> DIGIF

.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ

** ========== BLOCK SUBCIRCUITS ==========

* LNA - behavioral: 15dB gain, BW=10GHz
.subckt LNA_77G INP INN OUTP OUTN VCC GND
Rin_p INP GND 50
Rin_n INN GND 50
E1 outp_ac GND INP GND 5.6
E2 outn_ac GND INN GND 5.6
R1 outp_ac OUTP 50
R2 outn_ac OUTN 50
C1 OUTP GND 0.3p
C2 OUTN GND 0.3p
.ends LNA_77G

* Mixer - behavioral: 6dB conversion gain
.subckt MIXER_77G RFP RFN LOP LON IFP IFN VCC GND
B1 IFP GND V = 0.6 + 2*V(RFP,RFN)*V(LOP,LON)
B2 IFN GND V = 0.6 - 2*V(RFP,RFN)*V(LOP,LON)
Rout1 IFP GND 1k
Rout2 IFN GND 1k
.ends MIXER_77G

* IFA - behavioral: 40dB gain, 10MHz BW
.subckt IFA_77G INP INN OUTP OUTN VCC GND
E1 outp_i GND INP INN 100
E2 outn_i GND INN INP 100
R1 outp_i OUTP 1k
R2 outn_i OUTN 1k
C1 OUTP GND 16p
C2 OUTN GND 16p
.ends IFA_77G

* VGA - behavioral: 20dB gain
.subckt VGA_77G INP INN OUTP OUTN VCTRL VCC GND
E1 outp_i GND INP INN 10
E2 outn_i GND INN INP 10
R1 outp_i OUTP 1k
R2 outn_i OUTN 1k
C1 OUTP GND 16p
C2 OUTN GND 16p
.ends VGA_77G

* ADC - StrongARM comparator (CMOS)
.subckt ADC_SAR_12B AINP AINN CLK DOUTP DOUTN VDD VSS
XM1 dn1 AINP tail VSS sg13_lv_nmos w=8u l=200n ng=4 m=4 rfmode=1
XM2 dn2 AINN tail VSS sg13_lv_nmos w=8u l=200n ng=4 m=4 rfmode=1
XM9 tail CLK VSS VSS sg13_lv_nmos w=8u l=200n ng=4 m=2 rfmode=1
XM5 DOUTP DOUTN dn1 VSS sg13_lv_nmos w=4u l=200n ng=2 m=2 rfmode=1
XM6 DOUTN DOUTP dn2 VSS sg13_lv_nmos w=4u l=200n ng=2 m=2 rfmode=1
XM3 DOUTP DOUTN VDD VDD sg13_lv_pmos w=4u l=200n ng=2 m=2 rfmode=1
XM4 DOUTN DOUTP VDD VDD sg13_lv_pmos w=4u l=200n ng=2 m=2 rfmode=1
XM7 DOUTP CLK VDD VDD sg13_lv_pmos w=2u l=200n ng=1 m=2 rfmode=1
XM8 DOUTN CLK VDD VDD sg13_lv_pmos w=2u l=200n ng=1 m=2 rfmode=1
.ends ADC_SAR_12B

* VCO - Cross-coupled LC oscillator
.subckt VCO_77G OUTP OUTN VCC GND VTUNE
XQ1 OUTP OUTN tail GND npn13G2l Nx=2 selft=0
XQ2 OUTN OUTP tail GND npn13G2l Nx=2 selft=0
L1 VCC OUTP 100p
L2 VCC OUTN 100p
Cvar1 OUTP GND 30f
Cvar2 OUTN GND 30f
Itail tail GND DC 6m
.ends VCO_77G

* DIGIF - CML output buffer (simplified)
.subckt DIGIF_CML DINP DINN DOUTP DOUTN VCC GND
XQ1 DOUTP DINP tail GND npn13G2l Nx=2 selft=0
XQ2 DOUTN DINN tail GND npn13G2l Nx=2 selft=0
RL1 VCC DOUTP 50
RL2 VCC DOUTN 50
Itail tail GND DC 16m
.ends DIGIF_CML

** ========== TOP LEVEL ==========

* Power supplies
Vcc33 vcc33 0 3.3
Vdd12 vdd12 0 1.2

* VCO tuning
Vtune vtune 0 1.5

* VGA gain control (mid-range)
Vctrl vctrl 0 1.2

* ADC clock - 1GHz
Vclk clk 0 PULSE(0 1.2 0 50p 50p 450p 1000p)

* RF input - 77GHz tone (represented as baseband equivalent for this sim)
* Using 10MHz IF signal to represent downconverted signal
Vrf_p rf_p 0 DC 1.1 AC 0.5m SIN(1.1 1m 10Meg)
Vrf_n rf_n 0 DC 1.1 AC -0.5m SIN(1.1 -1m 10Meg)

* LO drive for mixer (CM=2.4V to sit above RF pair collectors)
Vlo_p lo_p 0 DC 2.4 SIN(2.4 100m 10Meg)
Vlo_n lo_n 0 DC 2.4 SIN(2.4 -100m 10Meg)

** ========== SIGNAL CHAIN ==========

* LNA
X_lna rf_p rf_n lna_op lna_on vcc33 0 LNA_77G

* Mixer (behavioral - direct connection)
X_mixer lna_op lna_on lo_p lo_n if_p if_n vcc33 0 MIXER_77G

* IFA (behavioral - direct connection)
X_ifa if_p if_n ifa_op ifa_on vcc33 0 IFA_77G

* VGA (behavioral - direct connection)
X_vga ifa_op ifa_on vga_op vga_on vctrl vcc33 0 VGA_77G

* ADC (actual PDK CMOS transistors)
X_adc vga_op vga_on clk adc_op adc_on vdd12 0 ADC_SAR_12B

* Digital Interface
X_digif adc_op adc_on dout_p dout_n vcc33 0 DIGIF_CML

* VCO (free-running for now)
X_vco vco_op vco_on vcc33 0 vtune VCO_77G

** ========== ANALYSIS ==========

.options method=gear reltol=1e-3 abstol=1e-9 vntol=1e-6 gmin=1e-12 itl4=200
.tran 10p 10n

.control
run
wrdata /home/bthomas3/Videos/77GHz_phased_array/sim/radar_top_results.txt v(lna_op) v(if_p) v(ifa_op) v(vga_op) v(adc_op) v(dout_p) v(vco_op)
meas tran lna_swing pp v(lna_op) from=2n to=10n
meas tran if_swing pp v(if_p) from=2n to=10n
meas tran ifa_swing pp v(ifa_op) from=2n to=10n
meas tran vga_swing pp v(vga_op) from=2n to=10n
meas tran dout_swing pp v(dout_p) from=2n to=10n
meas tran vco_swing pp v(vco_op) from=2n to=10n
quit
.endc

.end